US07223788B2
5-Chloro-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol
Butyllithium (15% in hexane; 7.6 ml) was added dropwise to a solution of 2-bromo-5-chloropyridine (2.0 g) in diethyl ether (50 ml) at −78° C. and, after one hour, a solution of N-tert-butoxycarbonyl-4-piperidinone (2.1 g) in diethyl ether (10 ml) was added dropwise. After 30 minutes, water was cautiously added, and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was treated by method G. This resulted in the product with the molecular weight of 212.68 (C10H13ClN2O); MS(ESI): 213 (M+H+).

reactant | Butyllithium | 7.6 ml | C(CCC)[Li]
reactant | 2-bromo-5-chloropyridine | 2.0 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | N-tert-butoxycarbonyl-4-piperidinone | 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-Chloro-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol | ClC=1C=CC(=NC1)C1(CCNCC1)O | C10H13ClN2O
